US07351719B2
Z31b) 4-(2-diethylamino-ethoxy)-3-nitro-phenylamine
A solution of 1.85 g (6.264 mmol) N-[4-(2-diethylamino-ethoxy)-3-nitro-phenyl]-acetamide (Z31a) in semiconc. aqueous HCl was stirred for 2 h at 100° C., cooled to RT, made basic with ice and conc. aqueous ammonia and the aqueous phase was exhaustively extracted with EtOAc. The combined org. phases were washed with water and dried over sodium sulphate.

reactant | N-[4-(2-diethylamino-ethoxy)-3-nitro-phenyl]-acetamide | 6.264 mmol, 1.85 g | C(C)N(CCOC1=C(C=C(C=C1)NC(C)=O)[N+](=O)[O-])CC | C14H21N3O4
reactant | HCl | Cl | ClH
reactant | ammonia | N | H3N
product | 4-(2-diethylamino-ethoxy)-3-nitro-phenylamine | C(C)N(CCOC1=C(C=C(C=C1)N)[N+](=O)[O-])CC | C12H19N3O3
